US07741327B2
A solution of (S)-2-[4-(3-chloro-2-fluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid [1-((R)-2,2-dimethyl-[1,3]dioxolan-4-yl-methyl)-1H-pyrazol-3-yl]-amide (0.56 g, 1.08 mmol) in dichloromethane (10 mL) and methanol (10 mL) at 25° C. was treated with p-toluenesulfonic acid monohydrate (0.04 g, 0.21 mmol). The reaction was stirred at 25° C. overnight. At this time, the reaction was concentrated in vacuo. The residue was diluted with dichloromethane (50 mL) and was washed with a saturated aqueous sodium bicarbonate solution (1×50 mL), water (1×50 mL) and a saturated aqueous sodium chloride solution (1×50 mL), dried over magnesium sulfate, filtered, rinsed with dichloromethane and concentrated in vacuo. Purification by Analogix flash chromatography (40 g, 1-10% methanol/dichloromethane gradient) afforded (S)-2-[4-(3-chloro-2-fluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid [1-((R)-2,3-dihydroxy-propyl)-1H-pyrazol-3-yl]-amide (0.41 g, 79%) as a light, yellow solid: HR-ES-MS m/z calculated for C22H27N4O5FCl [M+H]+ 481.1649, observed 481.1650; 1H NMR (400 MHz, DMSO-d6) δ ppm 0.91 (d, J=6.4 Hz, 3H), 0.94 (d, J=6.4 Hz, 3H), 1.39-1.51 (m, 1H), 1.51-1.64 (m, 1H), 1.70-1.81 (m, 1H), 3.22-3.33 (m, 2H), 3.71-3.82 (m, 1H), 3.87 (dd, J=13.6, 7.5 Hz, 1H), 4.09 (dd, J=13.6, 3.8 Hz, 1H), 4.25 (d, J=18.5 Hz, 1H), 4.62 (d, J=18.5 Hz, 1H), 4.70 (t, J=5.6 Hz, 1H), 4.88 (dd, J=10.8, 5.0 Hz, 1H), 4.93 (d, J=5.3 Hz, 1H), 5.03 (s, 1H), 6.41 (d, J=2.1 Hz, 1H), 7.33 (td, J=8.3, 1.5 Hz, 1H), 7.49-7.61 (m, 3H), 10.77 (s, 1H).

reactant | (S)-2-[4-(3-chloro-2-fluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid [1-((R)-2,2-dimethyl-[1,3]dioxolan-4-yl-methyl)-1H-pyrazol-3-yl]-amide | 1.08 mmol, 0.56 g | CC1(OC[C@H](O1)CN1N=C(C=C1)NC([C@H](CC(C)C)N1C(C=C(C1)OC1=C(C(=CC=C1)Cl)F)=O)=O)C | C25H30ClFN4O5
reactant | p-toluenesulfonic acid monohydrate | 0.21 mmol, 0.04 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | methanol | 10 mL | CO | CH4O
product | (S)-2-[4-(3-chloro-2-fluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid [1-((R)-2,3-dihydroxy-propyl)-1H-pyrazol-3-yl]-amide | 0.41 g, 79% | O[C@H](CN1N=C(C=C1)NC([C@H](CC(C)C)N1C(C=C(C1)OC1=C(C(=CC=C1)Cl)F)=O)=O)CO | C22H26ClFN4O5
